US07250511B2
tert-Butyl 4-{N-[(6RS)-2-hydroxymethyl-4-oxo-3,4,7,8-tetrahydro-6H-cyclopenta[g]quinazolin-6-yl]amino}benzoate
To a solution of tert-butyl 4-{N-[(6RS)-2-benzyloxymethyl-4-oxo-3,4,7,8-tetrahydro-6H-cyclopenta[g]quinazolin-6-yl]amino}benzoate (1.40 g, 2.8 mmol) in EtOH (150 ml) was added 10% Pd/C (0.665 g). The mixture was stirred at 45° C. for 3 h, then more catalyst (0.200 g) was added and stirring was continued at 50° C. for 6 h. The catalyst was removed by filtration, washed with EtOH, and the filtrate was concentrated in vacuo. Purification of the residue by column chromatography, on elution with 8% methanol in ethyl acetate, gave a white solid (0.679 g, 60%); mp 265-266° C.; 1H-NMR (250 MHz, DMSO-d6, TMS) 1.52 (s, 9H, C(CH3)3), 1.88, 2.57 (2×m, 1H each, 7-CH), 2.90-3.17 (m, 2H, 8-CH2), 4.38 (d, J=6.0 Hz, 2H 2-CH2OH), 5.17 (m, 1H, 6-CH), 5.54 (t, J=6.1 Hz, 1H, CH2OH), 6.79 (d, J=8.8 Hz, 2H, 3′,5′-ArH), 6.91 (d, J=7.8 Hz, N10—H), 7.51, 7.91 (2×s, 1H each, 5-H and 9-H), 7.68 (d, J=8.8 Hz, 2H, 2′,6′-ArH), 11.83 (s, 1H, CONH); MS (ESI, m/z) 408 [M+H)+, 65%], 352 [(M-tBu)+, 100%], 215 (60%); Found: C, 67.41; H, 6.20; N, 10.17; C23H25N3O4 requires C, 67.80; H, 6.18; N, 10.31%.

reactant | tert-butyl 4-{N-[(6RS)-2-benzyloxymethyl-4-oxo-3,4,7,8-tetrahydro-6H-cyclopenta[g]quinazolin-6-yl]amino}benzoate | 2.8 mmol, 1.40 g | C(C1=CC=CC=C1)OCC1=NC2=CC3=C(C=C2C(N1)=O)C(CC3)NC3=CC=C(C(=O)OC(C)(C)C)C=C3 | C30H31N3O4
solvent | EtOH | 150 ml | CCO | C2H6O
catalyst | Pd/C | 0.665 g | [Pd] | Pd
product | tert-Butyl 4-{N-[(6RS)-2-hydroxymethyl-4-oxo-3,4,7,8-tetrahydro-6H-cyclopenta[g]quinazolin-6-yl]amino}benzoate | 0.679 g, 60% | OCC1=NC2=CC3=C(C=C2C(N1)=O)C(CC3)NC3=CC=C(C(=O)OC(C)(C)C)C=C3 | C23H25N3O4
